US09371280B2
In a manner similar to the method described in Example 14, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1) was reacted with 2-morpholinopropan-1-ol to give 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-morpholin-4-yl-propyl ester, hydrochloride. MS (ES+) m/z calcd. for C38H43Cl2F2N4O5: [(M+H)+]: 744. found: 744.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | 2-morpholinopropan-1-ol | O1CCN(CC1)C(CO)C | C7H15NO2
product | 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-morpholin-4-yl-propyl ester, hydrochloride | Cl.N1(CCOCC1)C(COC(C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC)=O)C | InChI=1S/C38H42Cl2F2N4O5.ClH/c1-22(46-13-15-50-16-14-46)20-51-36(48)23-9-12-29(30(17-23)49-5)44-35(47)34-32(25-7-6-8-27(40)33(25)42)38(21-43,31(45-34)19-37(2,3)4)26-11-10-24(39)18-28(26)41;/h6-12,17-18,22,31-32,34,45H,13-16,19-20H2,1-5H3,(H,44,47);1H/t22?,31-,32-,34+,38-;/m0./s1
